* This file is generated by PAMHYR, please don't modify
Reach_002 xx1 xx2 ../model_mage_event_main/net/Reach_002.ST
Reach_004 xx2 xx3 ../model_mage_event_main/net/Reach_004.ST
