* This file is generated by PAMHYR, please don't modify
Reach_002 xx1 xx2 ../AIN_90/net/Reach_002.ST
Reach_003 xx2 xx3 ../AIN_90/net/Reach_003.ST
Reach_004 xx3 xx4 ../AIN_90/net/Reach_004.ST
Reach_005 xx5 xx6 ../AIN_90/net/Reach_005.ST
Reach_006 xx6 xx3 ../AIN_90/net/Reach_006.ST
Reach_014 x14 xx5 ../AIN_90/net/Reach_014.ST
